US07582636B2
A mixture of 6-Bromo-quinoxaline (1.05 g, 5.02 mmol), palladium tetrakistriphenylphosphine (0.232 g, 0.2 mmol), and lithium chloride (0.639 g, 15.1 mmol) in dry toluene (50 mL) under nitrogen was treated with tributylvinyl tin (4.4 mL, 15.1 mmol) and heated to 100° C. for three hours. After cooling to room temperature the mixture was partitioned between ethyl acetate (200 mL) and water (100 mL). The aqueous layer was discarded and the organics washed with brine (2×100 mL), dried with magnesium sulfate, filtered, and concentrated to dryness on a rotary evaporator. Purification by flash column chromatography on silica gel using 10% ethyl acetate in dichloromethane as eluant yielded 680 mg (87% yield) of 6-Vinyl-quinoxaline as a light orange solid. 1H NMR (DMSO-d6): 8.92 (dd,2H,J=14.1,1.9 Hz), 8.10 (m,3H), 7.03 (dd,1H,J=17.7,10.9 Hz), 6.15 (dd,1H,J=17.7,0.4 Hz), 5.52 (d,1H,J=11.1 Hz). LC/MS (Method A): r.t.=1.14 min., purity=99%, calculated mass=156, [M+H]+=157.

reactant | 6-Bromo-quinoxaline | 5.02 mmol, 1.05 g | BrC=1C=C2N=CC=NC2=CC1 | C8H5BrN2
reactant | lithium chloride | 15.1 mmol, 0.639 g | [Cl-].[Li+]
reactant | tributylvinyl tin | 15.1 mmol, 4.4 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Vinyl-quinoxaline | 680 mg, 87% yield | C(=C)C=1C=C2N=CC=NC2=CC1 | C10H8N2
